US07365069B2
N-(4-Isopropylphenyl)pyridine-4-carboximidamide
The title compound was prepared from 4-cyanopyridine (7.7 g, 74 mmol) and 4-isopropylaniline (10 g, 74 mmol) by following the procedure described in preparation 10 (16 g, yield 90.4%, mp 131-134 C, purity 96.43% by HPLC). 1H-NMR (DMSO): δ 1.20-1.22 (d, 6H), 2.82-2.87 (m, 1H), 6.54 (bs, 2H, D2O exchangeable), 6.8-6.82 (d, 2H), 7.18-7.2 (d, 2H), 7.89-7.9 (d, 2H), 8.65-8.67 (d, 2H). IR (KBr) cm−1: 3452, 3299, 3163, 2955, 1647, 1597. MS m/z:240.2 (M+).

reactant | 4-cyanopyridine | 74 mmol, 7.7 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 4-isopropylaniline | 74 mmol, 10 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | KBr | [K+].[Br-]
product | N-(4-Isopropylphenyl)pyridine-4-carboximidamide | yield 90.4% | C(C)(C)C1=CC=C(C=C1)NC(=N)C1=CC=NC=C1 | C15H17N3
